US04714619
N-Benzyloxycarbonyl-D-alanine Isopropyl Amide (25)
N-Benzyloxycarbonyl-D-alanine (2.232 g, 10 mmol) and HOBt hydrate (1.53 g, 10 mmol) are dissolved in 40 mL freshly distilled DMF and cooled in an ice-H2O bath. DCC (2.06 g, 10 mmol) is added. The reaction mixture is stirred in the cold for 15 minutes, isopropylamine (0.85 mL, 10 mmol) is then introduced. It is stirred in the cold for 2 hours and room temperature overnight. HOAc (a few drops) is added and the reaction mixture stirred at room temperature for another 15 minutes. It is filtered to remove DCU and the filtrate layered with 50 mL EtOAc and 80 mL H2O. The phases are separated and the aqueous phase is extracted with 50 mL EtOAc. The pooled EtOAc extract is wazhed with H2O, 0.1N HCl (3×), H2O (3×), 0.1N NaOH (3×), H2O (3×), dried over anhydrous Na2SO4 and evaporated to dryness. The crude product is purified by liquid column chromatography on silica gel eluting with toluene/EtOAc mixtures.

reactant | N-Benzyloxycarbonyl-D-alanine | 10 mmol, 2.232 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C)C(=O)O | C11H13NO4
reactant | HOBt hydrate | 10 mmol, 1.53 g | C1=CC=C2C(=C1)N=NN2O.O
reactant | DCC | 10 mmol, 2.06 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | isopropylamine | 10 mmol, 0.85 mL | C(C)(C)N | C3H9N
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | HOAc | a few drops | CC(=O)O | C2H4O2
product | N-Benzyloxycarbonyl-D-alanine Isopropyl Amide | C(C)(C)NC([C@H](NC(=O)OCC1=CC=CC=C1)C)=O | C14H20N2O3
